Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / Keflex
 
Attending: ___.
 
Chief Complaint:
Fall and Subdural Hematoma
 
Major Surgical or Invasive Procedure:
___ - 2 layer suture closure of forehead laceration by 
plastic surgery using ___ Vicryl and ___ and ___ prolene.

 
History of Present Illness:
Ms. ___ is a ___ F w/ CKD, history of falls and chronic 
back pain along with cervical radiculopathy and polyneuropathy 
who presents to the ED s/p fall. The patient notes that in the 
week leading up to the fall she had not been eating or drinking 
well, as she was very busy with clinic appointments for her 
various health issues. She also had denture work on ___ 
prior to admission (___). She notes significant trouble 
falling asleep on the night of ___, and going to the bathroom 
around 1AM on ___. She fell asleep on the toilet, falling 
forward and hitting the front of her forehead on the ground. She 
woke up immediately, and remembers the aftermath of the fall 
when she was transported to ___.

On review of systems she denies any anginal hx, pre-syncope or 
dizziness prior to the fall. She also denies any chest pain, 
shortness of breath, abdominal pain, 
dysuria/hematuria/hesitancy, or any fever/chills/rashes.

___ ED course:
- initial vitals: 97.5  55  177/67  18  98% RA 
- improving L sided neck tenderness
- complex 4cm laceration to forehead with hematoma
- no other traumatic injuries on body found
- WBC 9, Hct 38, creat 1.2
- CT head: small right frontal subdural hematoma 
- CT c-spine: no acute fracture or traumatic malalignment
- 1500cc IVF
- Ketorolac IV, Fluoxetine, Gabapentin, Levothyroxine, 
Omeprazole, Loperamide, Lorazepam, Fentanyl
- Neurosurgery: clear for home, no ASA, no need for repeat head 
CTs 
- Plastic Surgery: requested 
- Physical Therapy: recommend short term rehab

ROS: Full 10 pt review of systems negative except for above.
 
Past Medical History:
 CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls

- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==================
VS: 97.5  55  177/67  18  98% RA 
Gen: NAD, AAOx3
HEENT: EOMI, PERRLA. Bilateral orbital ecchymoses. 
CV: ___ systolic murmur loudest at the ___.
Pulm: CTAB, good respiratory effort.
Abd: Normoactive BS, soft non distended, nontender on deep 
palpation. 
GU: No foley
Ext: Upper extremities with multiple ecchymoses consistent with 
bruising from falls, bilateral lower extremities with pretibial 
healed scars. FROM x 4. Right wrist deformity consistent with 
old injury.
Skin: No visible rashes.
Neuro: CNII-CNXII, ___ strength upper and lower extremities. 
Psych: Alert and oriented x 3. 

DISCHARGE PHYSICAL EXAM:
==================
Vitals: 97.8, 148-175/67-84, 56-67, pulse 18, 98% on RA
On recheck: 152/80 BP
Gen: NAD, AAOx3
HEENT: EOMI, PERRLA. Bilateral orbital ecchymoses. Front of 
forehead covered with bandage, clean/dry/intact.
CV: ___ systolic murmur loudest at the ___.
Pulm: CTAB, good respiratory effort.
Abd: Normoactive BS, soft non distended, nontender on deep 
palpation. 
Ext: Upper extremities with multiple ecchymoses consistent with 
bruising from falls, bilateral lower extremities with pretibial 
healed scars. FROM x 4. Right wrist deformity consistent with 
old injury.
Skin: No visible rashes.
Neuro: CNII-CNXII, ___ strength upper and lower extremities. 
Psych: Alert and oriented x 3. 

 
Pertinent Results:
ADMISSION LABS:
===========
___ 02:45AM BLOOD WBC-9.4 RBC-4.17*# Hgb-12.4 Hct-38.4 
MCV-92# MCH-29.7 MCHC-32.2 RDW-14.1 Plt ___
___ 02:45AM BLOOD ___ PTT-28.0 ___
___ 02:45AM BLOOD Glucose-85 UreaN-17 Creat-1.2* Na-134 
K-4.4 Cl-97 HCO3-25 AnGap-16
___ 02:45AM BLOOD Calcium-9.0 Phos-4.4 Mg-1.9

EKG:
====
1st degree AV block, otherwise NSR

OTHER PERTINENT LABS:
===============
___ 07:32AM BLOOD WBC-8.7 RBC-4.13* Hgb-12.0 Hct-37.6 
MCV-91 MCH-29.2 MCHC-32.0 RDW-13.9 Plt ___
___ 07:32AM BLOOD UreaN-14 Creat-1.1 Na-137 K-4.7 Cl-99 
HCO3-29 AnGap-14
___ 07:32AM BLOOD ___ PTT-26.7 ___
___ 07:32AM BLOOD Phos-2.8# Mg-1.9

MICROBIOLOGY:
==========
Urinalysis - WNL

IMAGING:
======
___: CT HEAD WITHOUT CONTRAST
There is a small right frontal subdural hematoma (2:21), 
measuring 
approx. 11 by 6 mm in transverse dimension.   Prominent 
ventricles and sulci
are consistent with age-related involutional change.  
Periventricular and deep
subcortical white matter hypodensities are consistent with 
chronic small
vessel ischemic disease.  The basal cisterns appear patent, and 
there is
preservation of gray-white matter differentiation.
 
No fracture is identified.  The mastoid air cells, middle ear 
cavities and
visualized paranasal sinuses are clear.  The globes are 
unremarkable.
 
IMPRESSION:  Small right frontal subdural hematoma.

___: CT C-SPINE WITHOUT CONTRAST
FINDINGS:  There is no acute fracture or traumatic malalignment. 
 Multilevel
degenerative changes are seen throughout the cervical spine, 
including
unchanged 3 mm of anterolisthesis of C4 on C5, with disc height 
loss, anterior
osteophytosis and endplate sclerosis at multiple levels.  There 
is no
prevertebral soft tissue swelling.  The thyroid gland is 
unremarkable.  Apical
partially calcified scarring is unchanged.
 
IMPRESSION:  No acute fracture or traumatic malalignment.

Chest XRAY: ___:
Probable background COPD and mild cardiomegaly. No acute 
pulmonary process
identified. Biapical pleural/parenchymal thickening noted.

 
Brief Hospital Course:
Ms. ___ is a ___ F w/ CKD, history of falls and chronic 
back pain along with cervical radiculopathy and polyneuropathy 
who presents to the ED s/p fall and found to have subdural 
hematoma measuring 11mm x 6mm that appears to be ___ fatigue, 
poor PO, and potentially deliriogenic medications.

# Subdural Hematoma: 
Small right frontal subdural hematoma on admission CT head with 
negative CT c-spine. No neurosurgical interventions or repeat 
imaging needed per Neurosurgery in ED. Patient also needs no NSG 
followup as per the team. Her course remained stable, with no 
changes in her neurological function which would have been 
indicative of progression of the subdural hematoma. The 
neurosurgery service was consulted on ___ in regards to 
whether or not patient can be anticoagulated with DVT 
prophylaxis - they recommended holding ASA x 1 week from 
___ (to ___. After ___, aspirin can be 
started if recommended by patient's primary care physician for 
cardiac risk reduction. OK for sc heparin for DVT prophylaxis if 
needed.  

# Mechanical Fall: 
Multifactorial - patient on some deliriogenic medications, 
fatigued, and with poor PO in the context of busy clinic 
appointment schedule. ___ evaluated and recommends short term 
rehab. In evaluation of the medication list - patient is on a 
number of deliriogenic medications and doses that are above the 
recommended level including Lorazepam 1 mg PO BID for anxiety, 
which can increase risk of delirium/falls. She is on Trazodone 
100mg PO qHS:prn for insomnia, which increased risk for QT 
prolongation and for somnolence that may contribute to the 
overnight risk of falls. In addition, she is on standing 
narcotics for her chronic pain, and these may also contribute to 
fall risk. Prior to discharge from ___ a workup for other 
causes of patient's fall were performed. EKG indicated ___ 
degree AV block, but otherwise was within normal limits. In 
addition, electrolytes were within normal limits. Her gait was 
unstable at times, prompting physical therapy to recommend that 
the patient go to short term rehab.

# CKD: 
Creatinine of 1.2, at baseline and stable. Patient notes that 
she has a history of one of her kidneys not being appropriately 
formed and that this is the cause of her CKD. Medications were 
renally dosed, and nephrotoxic agents were avoided. Kidney 
function monitored throughout hospitalization.

# Cervical Radiculopathy
Patient with continuing back and neck discomfort. Provided 
Tylenol, Gabapentin 800 mg PO TID, and Hydrocodone-Tylenol 5mg 
PO q8h:prn pain. Discontinued her home Endocet during 
hospitalization. Did not exceed 4 grams of Tylenol daily. Held 
patient's Celebrex ___ mg oral qd.

# Polyneuropathy
Stable. On Gabapentin 800 mg PO TID.

# Osteoporosis
No fractures seen on imaging. On Vitamin D 1000 UNIT PO DAILY 
and Calcium Carbonate 500 mg PO BID.

# Depression/Anxiety
Held Lorazepam 1mg PO BID due to deliriogenic effects. However, 
provided patient's home Fluoxetine 40 mg PO DAILY.

#Hypothyroidism
On Levothyroxine Sodium 50 mcg PO DAILY.

#Insomnia
Reduced dose of home TraZODone 100 mg PO HS:PRN insomnia to 25mg 
PO HS:PRN insomnia.

#History of Anemia
Continued Ferrous Sulfate 325 mg PO DAILY.

TRANSITIONAL ISSUES:
===============
- Plastic surgery clinic on ___ for removal of sutures 
and re-evaluation of forehead laceration
- No Aspirin for a total of 1 week from injury - until ___.
- Please follow up with your primary care physician ___ 2 
weeks of discharge.
- Consider discontinuing lorazepam, reducing endocet amount as 
able, and trazodone dose to reduce risk for delirium and falls.
- No followup required with neurosurgery
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 40 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Lorazepam 1 mg PO BID 
4. Calcium Carbonate 500 mg PO BID 
5. Amoxicillin 500 mg PO 4 PILLS ONCE PRIOR TO DENTAL PROCEDURES 

6. LOPERamide 2 mg PO BID:PRN diarrhea 
7. Multivitamins 1 TAB PO DAILY 
8. TraZODone 100 mg PO HS:PRN insomnia 
9. Vitamin D 1000 UNIT PO DAILY 
10. Gabapentin 800 mg PO TID 
11. Celebrex ___ mg oral qd 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Endocet (oxyCODONE-acetaminophen) ___ mg oral BID 
14. Endocet (oxyCODONE-acetaminophen) ___ mg oral qHS 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Fluoxetine 40 mg PO DAILY 
4. Gabapentin 800 mg PO TID 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. LOPERamide 2 mg PO BID:PRN diarrhea 
7. Multivitamins 1 TAB PO DAILY 
8. TraZODone 25 mg PO HS:PRN insomnia 
9. Vitamin D 1000 UNIT PO DAILY 
10. Acetaminophen 325 mg PO Q4H:PRN pain 
11. Amlodipine 5 mg PO DAILY 
12. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
Duration: 7 Days 
13. Amoxicillin 500 mg PO 4 PILLS ONCE PRIOR TO DENTAL 
PROCEDURES 
14. Celecoxib 100 mg ORAL QD 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Subdural Hematoma
Mechanical Fall

Secondary:
Chronic Kidney Disease
Cervical Radiculopathy
Polyneuropathy
Osteoporosis
Depression/Anxiety
Hypothyroidism
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, 

You came to ___ after having a 
fall, hitting your head and sustaining a subdural hematoma (a 
small area of bleeding in your brain). You were seen by the 
neurosurgery service which found that the area of bleeding was 
small, should not affect your activities, and does not require 
any follow up with neurosurgery. Because you sustained an injury 
to your forehead, you received stitches and will need to go to 
the plastic surgery clinic at ___ on either ___ to 
have these removed, and for re-evaluation of your head wound. We 
found that the most likely cause of your fall was fatigue from 
your numerous doctor's appointments, and not eating and drinking 
enough. In addition, some of your home medications can 
contribute to falls. 

You were seen by our physical therapists who recommended you go 
to a rehab facility to regain your strength before returning to 
assisted living. 

It has been a pleasure caring for you here at ___, and we wish 
you all the best.

Kind regards,
Your ___ Team
 
Followup Instructions:
___